US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{4-[1-(1-carboxy-ethyl)-piperidin-4-yl]-piperazin-1-yl}-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 2.4 mg (0.10 mmol) LiOH in 0.8 mL water was added to 50 mg (0.06 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{4-[1-(1-ethoxycarbonyl-ethyl)-piperidin-4-yl]-piperazin-1-yl}-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 1 mL THF and the reaction mixture was shaken for 2 h at RT and for 4 h at 50° C. It was then purified by HPLC without working up; the fractions containing the product were combined and lyophilised.

reactant | LiOH | 0.10 mmol, 2.4 mg | [Li+].[OH-]
reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{4-[1-(1-ethoxycarbonyl-ethyl)-piperidin-4-yl]-piperazin-1-yl}-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.06 mmol, 50 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)C(C)C(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C39H51ClF3N7O6
solvent | water | 0.8 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{4-[1-(1-carboxy-ethyl)-piperidin-4-yl]-piperazin-1-yl}-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)C(C)C(=O)O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C37H47ClF3N7O6
